* I:\ECE270\Thevenin.asc
R1 N001 N002 10K
R2 N001 N003 10K
R3 N003 N001 33K
R4 N003 0 10K
R5 N001 0 10K
V1 N002 0 12V
.tran 0 1 0 0.1ms
.backanno
.end
