* I:\ECE270\bench exam\Draft2.asc
R1 0 N001 18K
R2 N003 N001 18K
R3 N003 0 18K
R4 N003 N003 22K
R5 N004 0 9K
R7 N002 N004 3.3K
R8 N004 N003 22K
R9 N004 N003 22K
I1 0 N002 1
.tran 0 1 0 0.1
.backanno
.end
