* E:\ECE270 Lab\Draft1.asc
V1 Vin 0 SINE(0V 1mV 1KHz) AC 1V 0
R1 Vm Vin 100
R2 Vyicheng Vm 300K
XU1 0 Vm 5Vp 5Vm Vyicheng LT1498
V2 5Vp 0 +5V
V3 5Vm 0 -5V
.tran 0 3ms 0mS 1uS
.lib LTC.lib
.backanno
.end
